US04354972
Preparation of 3α,6α-bis(benzoyloxy)-5α-cholane-24-al
One gram of 3α,6α-bis(hydroxy)-5α-cholane-24-al is dissolved in 5 ml of pyridine. With external cooling, 1 ml of benzoyl chloride is added dropwise with stirring. The mixture is kept at room temperature for five hours, then stirred with ice water. By extraction with methylene chloride, the reaction product is removed. The methylene chloride solution is repeatedly washed with dilute hydrochloric acid, then with water. After drying, the solvent is evaporated. The residue is 3α,6α-bis(benzoyloxy)-5α-cholane-24-al.

reactant | 3α,6α-bis(hydroxy)-5α-cholane-24-al | One gram | O[C@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C24H40O3
reactant | benzoyl chloride | 1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3α,6α-bis(benzoyloxy)-5α-cholane-24-al | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OC(C1=CC=CC=C1)=O | C38H48O5
